* Z:\media\joshua\Data\Daten\Develop\Projekte\walking-robot\motorDriver\hardware\simulation\powerStage.asc
V§PWM pwm_out 0 PULSE(0 3.3V 5us 10ns 10ns 1us 20us)
VCC N005 0 9V
M§low_MOS out low_gate 0 0 irfz44n
R_Motor N007 out 1
R§low_R_gate_in low_gate N004 22
XU1 N001 N006 N002 out N008 N001 pwm_out 0 N004 LM5106_TRANS
R2 0 N008 1k
M§high_MOS N001 high_gate out out IRFP250N
R§high_R_gate_in high_gate N002 1
C_boot out N006 0.1µF
D1 N001 N006 UF4007
VCC1 0 0 0V
D2 low_gate N004 UF4007
D3 high_gate N003 UF4007
R1 N001 N005 800m
D4 NC_01 NC_02 1N4148
M1 NC_03 NC_04 NC_05 NC_06 NMOS
R§high_R_gate_d N003 N002 1
.model D D
.lib C:\users\joshua\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\joshua\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 27.5us 24.5us 0.15ns
.lib Z:\media\joshua\Data\Daten\Develop\Projekte\walking-robot\motorDriver\hardware\simulation\lib\LM5106_TRANS.LIB
.backanno
.end
